US07067534B1
N-{3-[1-(3-{[(3,4-DICHLOROANILINO)CARBONYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure P and Scheme AB using 1,2-dichloro-4-isocyanatobenzene and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide: ESMS m/e: 493.2 (M+H)+.

reactant | 1,2-dichloro-4-isocyanatobenzene | ClC1=C(C=C(C=C1)N=C=O)Cl | C7H3Cl2NO
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
product | N-{3-[1-(3-{[(3,4-DICHLOROANILINO)CARBONYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | ClC=1C=C(NC(=O)NCCCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=CC1Cl | C25H32Cl2N4O2
